US07981882B2
1-(Phenylthio)pentane-2,4-dione
1-(Phenyltlhio)pentane-2,4-dione Stir 1,1-dimethylethyl 2-acetyl-3-oxo-4-(phenylthio)butanoate (1.11 g, 3.60 mmol) in TFA (3 mL) for 20 h at RT. Quench with water (10 mL), and extract using diethyl ether (10 mL). Wash organic layer with water (3×10 mL), dry (MgSO4), concentrate and purify (silica gel chromatography, eluting with 100:0 to 80:20 2-methylpentane:EtOAc) to give the title compound as an orange oil (513 mg, 69%).

reactant | 1,1-dimethylethyl 2-acetyl-3-oxo-4-(phenylthio)butanoate | 3.60 mmol, 1.11 g | C(C)(=O)C(C(=O)OC(C)(C)C)C(CSC1=CC=CC=C1)=O | C16H20O4S
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(Phenylthio)pentane-2,4-dione | 513 mg, 69% | C1(=CC=CC=C1)SCC(CC(C)=O)=O | C11H12O2S
